US06982348B2
4) (2RS,3RS)-3-(4-bromophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid
To a solution of ethyl (2RS,3RS)-3-(4-bromophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate (19.5 g, 40.7 mmol) in methanol (100 ml) was added 2N aqueous sodium hydroxide solution (40.7 ml, 81.4 mmol) and the mixture was stirred at room temperature for 2.5 hrs. 6N Hydrochloric acid (50 ml) was added to acidify the solution and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was crystallized from hexane to give the objective substance (16.7 g, 91%).

reactant | ethyl (2RS,3RS)-3-(4-bromophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | 40.7 mmol, 19.5 g | BrC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C20H19BrF4O4
reactant | sodium hydroxide | 81.4 mmol, 2N, 40.7 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | (2RS,3RS)-3-(4-bromophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | BrC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C18H15BrF4O4
